US05968949
(±)-trans-7-Benzylidene-1,2,3,4,4a,5,6,7,8,8a-decahydro-4a-(3-hydroxyphenyl)-2-methyl-6-isoquinolinone hydrochloride
The reaction was conducted as described in Example 3, using 0.1 g (0.28 mmol) di (±)-trans-7-benzylidene-1,2,3,4,4a,5,6,7,8,8a-decahydro-2-methyl-4a-(3-methoxyphenyl)-6-isoquinolinone, 0.16 ml (1.7 mmol) of boron tribromide and 6 ml of dry CHCl3. The crude reaction mixture was purified by flash chromatography, eluting with a mixture CH2Cl2 /MeOH/conc. NH4OH 86:10:0.6 respectively. The resulting solid was dissolved in MeOH and the solution brought to acidic pH with Et2O/HCl. The solvent was removed in vacuo, the resulting solid was triturated with acetone, yielding 0.07 g of the title compound. M.p.=256-260° C.

reactant | (±)-trans-7-benzylidene-1,2,3,4,4a,5,6,7,8,8a-decahydro-2-methyl-4a-(3-methoxyphenyl)-6-isoquinolinone | C(C1=CC=CC=C1)=C1C(C[C@]2(CCN(C[C@@H]2C1)C)C1=CC(=CC=C1)OC)=O | C24H27NO2
reactant | boron tribromide | 1.7 mmol, 0.16 ml | B(Br)(Br)Br | BBr3
reactant | CHCl3 | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | (±)-trans-7-Benzylidene-1,2,3,4,4a,5,6,7,8,8a-decahydro-4a-(3-hydroxyphenyl)-2-methyl-6-isoquinolinone hydrochloride | 0.07 g | Cl.C(C1=CC=CC=C1)=C1C(C[C@]2(CCN(C[C@@H]2C1)C)C1=CC(=CC=C1)O)=O | InChI=1S/C23H25NO2.ClH/c1-24-11-10-23(19-8-5-9-21(25)14-19)15-22(26)18(13-20(23)16-24)12-17-6-3-2-4-7-17;/h2-9,12,14,20,25H,10-11,13,15-16H2,1H3;1H/t20-,23+;/m0./s1
